US07585880B2
3-{2-fluoro-4-[(4-{[[2-(2-fluorophenyl)ethyl](4-isopropyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}-propanoic acid
To a solution of N-[2-(2-fluorophenyl)ethyl]-4-isopropyl-1,3-thiazole-2-amine (139 mg) in N,N-dimethylformamide (2 mL) was added sodium hydride (20 mg), and the mixture was stirred at room temperature for 1 hr. Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate (175 mg) was added to the reaction mixture at room temperature, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19-1:1 in volume ratio) to give a yellow oil. This oil was dissolved in ethanol (5 mL), 2N aqueous sodium hydroxide solution (2 mL) was added, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with water, neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was dried using a Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.) and concentrated to give the title compound (206 mg, yield 71%) as a yellow oil.

reactant | N-[2-(2-fluorophenyl)ethyl]-4-isopropyl-1,3-thiazole-2-amine | 139 mg | FC1=C(C=CC=C1)CCNC=1SC=C(N1)C(C)C | C14H17FN2S
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate | 175 mg | ClCC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C19H20ClFO3
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-{2-fluoro-4-[(4-{[[2-(2-fluorophenyl)ethyl](4-isopropyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}-propanoic acid | 206 mg, yield 71% | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)CN(C=1SC=C(N1)C(C)C)CCC1=C(C=CC=C1)F)CCC(=O)O | C31H32F2N2O3S
